US06127415
Synthesis of 3,5-dimethyl-1-adamantyl acetate
2.486 (10.2 mmoles) of 3,5-dimethyl-1-bromoadamantane is refluxed for 16 hours with 2.034 g (20.7 mmoles) of potassium acetate in 10 mL of acetic acid. The solution is poured over 100 grams of ice, allowed to melt, and extracted with 3×10 mL of diethyl ether. The combined ether extracts are washed with saturated aqueous sodium bicarbonate followed by saturated aqueous sodium chloride, then dried over sodium sulfate. The solvent is removed under vacuum, yielding 1.521 (67%) of the desired product, a colorless oil. TLC: Rf=0.68 (silica plate: eluant hexane 90%, ethyl acetate 10%). 1HNMR (CDCl3, 500 Mhz): 0.858 (s, 6H), 1.115 (d, 2H, J=12.4 Hz), 1.177 (d, 2H, J=12.4 Hz), 1.260 (d, 2H, J=12.3 Hz), 1.367 (d, 2H, J=12.3 Hz), 1.714 (d, 2H, J=11.6 Hz), 1.766 (d, 2H, J=11.6 Hz), 1.939 (s, 2H), 1.976 (s, 3H), 2.191 (m, 1H).

reactant | 3,5-dimethyl-1-bromoadamantane | CC12CC3(CC(CC(C1)(C3)C)C2)Br | C12H19Br
reactant | potassium acetate | 20.7 mmoles, 2.034 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3,5-dimethyl-1-adamantyl acetate | C(C)(=O)OC12CC3(CC(CC(C1)C3)(C2)C)C | C14H22O2
